US09120766B2
Solid pterostilbene (1.5 g, 5.86 mmol) was dissolved in 15 mL of t-butyl methyl ether (MTBE). The concentration of pterostilbene was calculated to be 100 mg/mL. Caffeine (1.14 g, 5.86 mmol) was added to the solution and the resulting slurry was allowed to stir at ambient temperature for 24 hours. Then aliquots of heptane (total 15 mL) were added with stirring to reach MTBE:heptane ratio 1:1. The system was allowed to stir at ambient temperature for 4 hours. The solid was collected by vacuum filtration on paper filter, washed 2×5 mL of heptane, and air-dried under reduced pressure for 10 minutes. The solid was transferred in an Erlenmeyer flask and 13 mL of water were added. The resulting slurry was allowed to stir at ambient temperature for 0.5 hour. The solid was isolated by vacuum filtration on a paper filter, washed 2×5 mL of water and then air-dried under reduced pressure for 40 minutes. The solid was vacuum dried at approximately 40° C. for 3 days yielding 2.26 g of pterostilbene: caffeine 1:1 cocrystal, Form I (86% yield).

reactant | pterostilbene | 5.86 mmol, 1.5 g | COC1=CC(=CC(=C1)OC)/C=C/C=2C=CC(=CC2)O | C16H16O3
reactant | Caffeine | 5.86 mmol, 1.14 g | N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | C8H10N4O2
reactant | heptane | 15 mL | CCCCCCC | C7H16
solvent | t-butyl methyl ether | 15 mL | COC(C)(C)C | C5H12O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | pterostilbene caffeine | 2.26 g, 86% yield | COC1=CC(=CC(=C1)OC)/C=C/C=2C=CC(=CC2)O.N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | InChI=1S/C16H16O3.C8H10N4O2/c1-18-15-9-13(10-16(11-15)19-2)4-3-12-5-7-14(17)8-6-12;1-10-4-9-6-5(10)7(13)12(3)8(14)11(6)2/h3-11,17H,1-2H3;4H,1-3H3/b4-3+;
